US07645789B2
Step c: (2,3-dihydro-1H-inden-5-yl)methanol
To a stirred solution of LAH (72.8 g, 1.92 mol) in THF (2.5 L) at 0° C. was slowly added 2,3-dihydro-1H-indene-5-carboxylic acid (100.0 g, 0.62 mol). The reaction mixture was stirred at 0° C. for 1 h. Then the reaction was quenched with H2O (72 ml) and NaOH (68 ml, 20%). The mixture was filtered and the organic layer was dried over Na2SO4, evaporated in vacuo and the residue was purified by column chromatography (petroleum ether:ethyl acetate=10:1) to give the desired product (82.0 g, 90%). 1H NMR (CDCl3, 300 MHz); δ 2.03-2.13 (m, 2H), 2.91 (t, J=7.5 Hz, 4H), 4.64 (s, 2H), 7.13 (d, J=7.5, 1H), 7.18-7.24 (m, 2H).

reactant | LAH | 1.92 mol, 72.8 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2,3-dihydro-1H-indene-5-carboxylic acid | 0.62 mol, 100.0 g | C1CCC2=CC(=CC=C12)C(=O)O | C10H10O2
solvent | THF | 2.5 L | C1CCOC1 | C4H8O
product | (2,3-dihydro-1H-inden-5-yl)methanol | 82.0 g, 90% | C1CCC2=CC(=CC=C12)CO | C10H12O
